US06903118B1
c)2-[2-(4-diphenylmethyl-piperazin-1-yl)-ethoxy]-ethylamine
Batch size: 27 g (55.6 mmol) 2-{2-[2-(4-diphenylmethyl-piperazinyl)-ethoxy]-ethyl}-isoindol-1,3-dione and 5.4 ml (110 mmol) hydrazine-hydrate.

reactant | 2-{2-[2-(4-diphenylmethyl-piperazinyl)-ethoxy]-ethyl}-isoindol-1,3-dione | 55.6 mmol, 27 g | C1(=CC=CC=C1)C(N1CCN(CC1)CCOCCN1C(C2=CC=CC=C2C1=O)=O)C1=CC=CC=C1 | C29H31N3O3
reactant | hydrazine-hydrate | 110 mmol, 5.4 ml | O.NN
product | 2-[2-(4-diphenylmethyl-piperazin-1-yl)-ethoxy]-ethylamine | C1(=CC=CC=C1)C(N1CCN(CC1)CCOCCN)C1=CC=CC=C1 | C21H29N3O
